US05578620
2-[5-(3-Chlorophenoxymethyl)-2-oxooxazolidin-3-yl]-3-methylbutanol
A procedure similar to that described in Preparation 5 was repeated, except that 1.14 g of methyl 2-[5-(3-chlorophenoxymethyl)-2-oxooxazolidin-3-yl]-3-methylbutanoate (less polar isomer), obtained as described in Preparation 99, 144 mg of lithium borohydride, 12 ml of anhydrous tetrahydrofuran and 105 mg of anhydrous methanol were used, to give 1.02 g of the title compound having an Rf value of 0.26 (on silica gel thin layer chromatography, using a 1:1 mixture of ethyl acetate and hexane as the developing solvent) from the less polar diastereomer.

reactant | methyl 2-[5-(3-chlorophenoxymethyl)-2-oxooxazolidin-3-yl]-3-methylbutanoate | 1.14 g | ClC=1C=C(OCC2CN(C(O2)=O)C(C(=O)OC)C(C)C)C=CC1 | C16H20ClNO5
reactant | lithium borohydride | 144 mg | [BH4-].[Li+]
reactant | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | methanol | 105 mg | CO | CH4O
product | 2-[5-(3-Chlorophenoxymethyl)-2-oxooxazolidin-3-yl]-3-methylbutanol | 1.02 g | ClC=1C=C(OCC2CN(C(O2)=O)C(CO)C(C)C)C=CC1 | C15H20ClNO4
